US09422279B2
To benzyl 2-(3,3,3-trifluoropropyl)hydrazinecarboxylate (1.7 g, 6.49 mmol, 1 eq.) in a mixture of EtOH (30 mL) were added Pd/C (1.0 g) and HCl (12 N, 2.0 mL). The mixture was charged with H2 (60 psi), stirred at RT for 1 h, filtered, and concentrated to give (3,3,3-trifluoropropyl)hydrazine dihydrochloride (1.07 g) as a yellow solid. MS (ESI) m/z 129.1 [M+H]+.

reactant | benzyl 2-(3,3,3-trifluoropropyl)hydrazinecarboxylate | 6.49 mmol, 1.7 g, 1 eq. | FC(CCNNC(=O)OCC1=CC=CC=C1)(F)F | C11H13F3N2O2
reactant | HCl | 12 N, 2.0 mL | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (3,3,3-trifluoropropyl)hydrazine dihydrochloride | 1.07 g | Cl.Cl.FC(CCNN)(F)F | InChI=1S/C3H7F3N2.2ClH/c4-3(5,6)1-2-8-7;;/h8H,1-2,7H2;2*1H
